US07468437B2
Step A: (racemic) (3R,4S) and (3S,4R) tert-Butyl-3-hydroxy-4-phenylpyrrolidine-1-carboxylate
To a solution of 7 g (37.8 mmol) tert-butyl 6-oxa-3-azabicyclo[3.1.0]hexane-3-carboxylate (prepared according to the procedure of Okada, T.; Sato, S.; Tsuji. T.; Tsushima, T.; Nakai, H.; Yoshida, T.; Matsuura, S.; Chem. Pharm. Bull. 1993, 41 (1), p. 132-133) was suspended 0.36 g (1.89 mmol; 0.05 equiv.) copper(I) iodide in 100 mL dry THF under nitrogen atmosphere. The mixture was cooled in an ice/water bath. To this mixture was added dropwise 41.6 mL (41.6 mmol; 1.1 equiv.) of a 1.0M solution of phenylmagnesium bromide in THF. The reaction mixture was stirred at 0° C. for 3 hr then warmed to room temperature. The reaction mixture was poured into 150 mL sat. aq. NH4Cl and stirred until a blue colored solution resulted. The mixture was transferred to a separatory funnel and extracted with diethyl ether (2×150 mL). The combined ether extracts were dried over anhydrous sodium sulfate, filtered and evaporated under vacuum. The resulting thick yellow oil was purified by silica gel chromatography eluting with hexanes/EtOAc (9/1) then hexanes/EtOAc (1/1). The product fractions (Rf˜0.5 in hexanes/EtOAc (1:1) were combined and evaporated under vacuum to give the product as a clear thick oil which solidified on standing. On larger scale this product could be further purified by crystallization from hexanes. 1H-NMR (CDCl3): δ: 1.45 (s, 9H), 3.2-3.4 (m, 3H), 3.65-3.95 (m, 3H), 4.37 (q, 1H, 5 Hz), 7.25 (t, 3H), 7.37 (t, 2H) ppm.

reactant | tert-butyl 6-oxa-3-azabicyclo[3.1.0]hexane-3-carboxylate | 37.8 mmol, 7 g | C12CN(CC2O1)C(=O)OC(C)(C)C | C9H15NO3
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | NH4Cl | 150 mL | [NH4+].[Cl-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | copper(I) iodide | 1.89 mmol, 0.36 g, 0.05 equiv. | [Cu]I
product | (3S,4R) tert-Butyl-3-hydroxy-4-phenylpyrrolidine-1-carboxylate | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C1=CC=CC=C1)O | C15H21NO3
